US08252275B2
A. Preparation of 2,7-di(3-carboxy-propionyl)fluorene
In a dry agon-purged round bottom flask, anhydrous AlCl3 (98 g, 0.735 mol) was suspended in anhydrous 1,2-dichloroethane (140 mL). In a separate flask, fluorene (23 g, 0.138 mol) was dissolved in anh. 1,2-dichloroethane (125 mL) then added to the AlCl3 suspension. The reaction flask was placed in a room temperature bath and succinic anhydride (34.5 g, 0.345 mol) was carefully added. The reaction was stirred for 16 hours and then very carefully quenched by slow addition to cold 3 M HCl (Caution! The reaction can react violently when HCl is added too rapidly.) The final well mixed suspension was acidic and not reactive to additional HCl solution. The organic solvent was removed at reduced pressure then the product was filtered and washed well with water. The crude product was dissolved in warm NaOH solution (approximately <1M NaOH), filtered and precipitated with the addition of concentrated HCl. The product was filtered, washed with water and then dried at reduced pressure in the presence of P2O5. The product was a pale yellow solid (49.3 g, 97%). 1H-NMR (CD3OD): δ (ppm) 8.3 (s, 2H, Ar); 8.2 (m, 2H, Ar); 8.1 (m, 2H, Ar); 4.1 (s, 2H, CH2); 3.5 (t, 4H, CH2); 2.8 (t, 4H, CH2).

reactant | AlCl3 | 0.735 mol, 98 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | fluorene | 0.138 mol, 23 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | succinic anhydride | 0.345 mol, 34.5 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 140 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 125 mL | ClCCCl | C2H4Cl2
product | 2,7-di(3-carboxy-propionyl)fluorene | C(=O)(O)CCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C(CCC(=O)O)=O | C21H18O6
